US03965121
dl-N-formyl-6-chlorotryptophan
15 g(628 mM) of dl-6-chlorotryptophan was treated with 15 ml of acetic-formic anhydride. An exothermic reaction ensued, accompanied by solidification of the reaction slurry. Excess solvents were distilled off under vacuum and the resultant solids, after first leaching with dilute acid, were recrystallized from ethyl acetate to yield 12.45 g, 74%, of product, m.p, 181°-3° dec.

reactant | dl-6-chlorotryptophan | 628 mM, 15 g | C1=CC2=C(C=C1Cl)NC=C2CC(C(=O)O)N | C11H11ClN2O2
reactant | acetic-formic anhydride | 15 ml | C(=O)OC(C)=O | C3H4O3
product | N-formyl-6-chlorotryptophan | C(=O)N[C@@H](CC1=CNC2=CC(=CC=C12)Cl)C(=O)O | C12H11ClN2O3
